US04563459
4.5 g of cyclopropylamine are added dropwise to a solution of 24.9 g of ethyl(2-(2,4-dichloro-5-fluorobenzoyl)-3-ethoxy-acrylate in 80 ml of ethanol, while cooling with ice and stirring. When the exothermic reaction has subsided, stirring is continued at room temperature for 1 hour, the solvent is stripped off in vacuo and the residue is recrystallized from cyclohexane/petroleum ether. 22.9 g of ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-cyclopropylamino-acrylate of melting point 89°-90° C. are obtained.

reactant | cyclopropylamine | 4.5 g | C1(CC1)N | C3H7N
reactant | 2-(2,4-dichloro-5-fluorobenzoyl)-3-ethoxy-acrylate | ClC1=C(C(=O)C(C(=O)[O-])=COCC)C=C(C(=C1)Cl)F
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-cyclopropylamino-acrylate | 22.9 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1)Cl)F | C15H14Cl2FNO3
